Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Painful paresthesias in distal ___, numbness in abdomen and 
fingertips, weight loss, stool incontinence 
 
Major Surgical or Invasive Procedure:
n/a

 
History of Present Illness:
___ is a healthy ___ RH female who presents 
to the ED after being seen in clinic with ___ on 
___.

The following is summarized based on Dr. ___ and
confirmed with patient with some additions:
She has a constant dull ache that radiates along her lateral
thigh from her right hip to her knee (started ___ which 
has
resolved. Additionally, on several occasions, her right leg has
"give(n) out" while walking down steps; her friend indicated at
the recent clinic visit that there had been a fall (patient
denies). Also "gives out" when walking up stairs or sometimes on
flat ground (started end of ___. No difficulty with left leg.
This has not happened in several weeks because she is more
careful; she has started using a cane and holding onto 
handrails.
She has had constant numbness across her anterior stomach
(periumbilical) since mid to end of ___. Additionally, she has
had 1 month of painful tingling in her legs and feet extending
from her knees to her toes, which is circumferential. She has
numbness, tingling, and burning pain in those areas.  The soles
of her feet are painful when she walks. Also has constant
numbness in fingertips bilaterally on ___ side distal to DIP
in all fingers for the last month. She has also had a few weeks
of fecal incontinence wherein she has the urge to have a bowel
movement but cannot get to the bathroom in time.  This occurred
___ times 2 weeks ago, but it has since resolved. She feels that
the symptoms are getting progressively worse. No urinary
incontinence or retention. She recalls no antecedent illnesses,
vaccines, unusual travel, or atypical exposures. She has not had
any saddle anesthesia, fevers, chills, or back pain. 

Her appetite has been poor and she has lost ___
pounds for the lst 1.5 months.  When she eats, she vomits or has
diarrhea (per Dr. ___, patient denies). 
Of note, Dr. ___ to that she was emailed by a
friend of the patient after her visit and revealed that the
patient has been drinking heavily and has had poor PO intake for
___ months. Her mother was diagnosed with multiple myeloma and
recently passed away on ___, and this has been a major 
recent
stressor.
 
An MRI of the L-spine on ___ demonstrated mild-to-moderate
degenerative changes worst at L3/L4 and L5/S1 with contact of 
the
exiting right L3 and L5 nerve roots and the traversing right S1
nerve root. Evaluation to date includes normal TSH, B12,
folic acid, HgA1C, ESR, CRP, SPEP, HIV, Lyme, RPR, and Hep 
A/B/C.

When she was seen by Dr. ___ on ___, note was made of ___
weakness at the toes," "patchy sensory loss to temperature
and vibration in the lower extremities.  There is no clear 
level.
She notes some dysesthesia to light touch in the distal lower
extremities", absent DTRs, inability to tandem, and sway with
Romberg testing. Dr. ___ an MRI T-spine with plan to do
LP the following week, and if unrevealing, EMG/NCS. She raised
concern for sensory variant GBS or sensory neuronopathy. Other
differential considerations included vasculopathy, nutritional
deficiency, and alcohol toxicity.
In the ED, rectal tone was normal. 

Neuro ROS pos: diplopia, middle ___, right after mother passed
away. Side by side. Went away when either eye closed.
Particularly when looking far away. Not up close. Not sure about
lateral gaze. Went on for 24 hours. Patient attributed this to
stress from mother passing away.
+Vertigo with standing for a few weeks a few weeks. 
On neuro ROS, the pt denies headache, loss of vision, blurred
vision, dysarthria, dysphagia, lightheadedness, tinnitus, and
hearing difficulty. Denies difficulties producing or
comprehending speech. No bladder incontinence or retention. No
stool retention. 

On general review of systems, the pt denies recent fever or
chills. No night sweats. Denies cough, shortness of breath. 
Denies chest pain or tightness, palpitations.  Denies nausea,
vomiting, diarrhea, constipation, or abdominal pain.  No recent
change in bowel or bladder habits. No dysuria. Denies 
arthralgias
or myalgias. Denies rash.
 
Past Medical History:
Depression
Seasonal Allergies
Pap Smear w/ ASCIS, Neg HRHPV ___
Normal mammogram ___
 
Social History:
___
Family History:
The patient's father died ___ at the age of ___ with an MI. Her 
mother died of multiple myeloma in ___ at age ___. Brother and 
sister are healthy.                     

 
Physical Exam:
===Initial Exam===
Vitals: T: ___ P: **112** R: 18  BP: 119/89 SaO2: 100RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. Fundoscopic exam revealed no papilledema,
exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk and tone. No pronation, no drift. No 
orbiting
with arm roll. +Postural tremor. No asterixis noted.  
[___]  
 [C5] [C5] [C7] [C6] [C7]  [T1][L2] [L3] [L5] [L4] [S1][L5]  
 L 5   5    5    5    5     5   5    5    5    5    5   5 
 R 5   5    5    5    5     5   5    5    5    5    5   5

-Sensory: Decreased sensation to LT ni bilateral ___ (60% of
normal proximal to knee, 20% distal to knee, hyperesthesia of
bottom and top of feet, anterior abdomen 60% of normal, torso 
75%
of normal up to neck, ___ fingertips 75%). Neck, back, arms
(other than fingertips) intact to LT. Decreased vibratory
sensation in bilateral ___ at great toes, ankles, and knees;
present at thumbs. Intact temperature, PP, and proprioception
throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    0   0
R  2  2    2    0   0
Plantar response was flexor bilaterally.

-Coordination: +Intention tremor. No dysdiadochokinesia noted. 
No
dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Unable to tandem walk (did not fall to a particular
side). Romberg absent.

===Discharge Exam===
On discharge, tremor had decreased and patient reported 
increased sensation to lower extremities. She reports 
improvement to the tingling and burning sensations in the lower 
extremities.

 
Pertinent Results:
Initial Laboratory Data:
CBC: WBC 12.5 (baseline leukocytosis in ___, normal in ___,
Hgb 13.4, Plt 186, incr absolute neutrophil count but normal %
nphils, coags nl, BMP notable for K of 3.2, ALT 69, AST 82
 
LFTs:
 ___: AST: 87*
 ___: ALT: 77*
 ___: Alk Phos: 130*
 ___: Total Bili: 1.3
 ___: Tot Prot: 6.7
 ___: Alb: 4.0

Inflammatory Markers:
 ___: CRP: 1.7 (Low risk <1.0, Average risk 1.0-3.0, High
risk >3.0 (but <10))
ESR nl
 
Neuropathy:
 ___: %HbA1c: 4.0 ___ recommendations:;   <7%  goal of
therapy;   >8%  warrants therapeutic action)
 ___: TSH: 3.1
 ___: Folate: 5.1
 ___: B12: 566
Lyme normal, RPR non-reactive
 
Infectious:
 ___: Hep C AB: Negative
 ___: HIV Antibody: Negative (Measured by Architect ___
Generation HIV Ag/Ab Combo Assay as of ___

Urinalysis:
 ___: BUN: 6
 ___: Creat: 0.6
 ___: Urine Blood (Hem): NEG
 ___: Urine Nitrite (Hem): NEG
 ___: Urine Protein (Hem): TR
 ___: Urine Glucose (Hem): NEG
 ___: Urine Ketone (Hem): NEG
 
 ___: Urine Leuks (Hem): TR
 ___: Sp ___: 1.017
 
 ___: WBC: 3
 
Radiologic Data:

MRI L-spine: mild-to-moderate degenerative changes worst at 
L3/L4
and L5/S1 with contact of the exiting right L3 and L5 nerve 
roots
and the traversing right S1 nerve root

Discharge Labs:

___ 11:40AM BLOOD WBC-7.8 RBC-4.04 Hgb-13.6 Hct-40.0 
MCV-99* MCH-33.7* MCHC-34.0 RDW-13.4 RDWSD-48.7* Plt ___

___ 11:40AM BLOOD Glucose-96 UreaN-<3* Creat-0.5 Na-138 
K-3.8 Cl-101 HCO3-27 AnGap-___ is a ___ F with no significant medical 
history who presents with symmetric distal paresthesias, right 
leg buckling, and transient stool incontinence in the setting of 
significant weight loss due to poor appetite and heavy alcohol 
use. Major stressor with recent death of mother. ___ findings 
are significant for hyperalguesia and decreased sensation to 
LT/PP/vibration predominantly below the knees, and fine hand 
tremor. Her sensory findings suggested both large and small 
nerve fiber involvement. Labs significant for AST>ALT elevation, 
and mild macrocytosis. LP negative. Exam does not suggest GBS. 
Most likely etiology of peripheral neuropathy seems to be 
nutritional deficiency secondary to poor PO intake and alcohol. 
Will rule-out other etiologies, such as paraneoplastic and 
rheumatologic syndromes, as well as Lyme disease, sarcoidosis, 
and heavy metals/toxins -- the results of all of which should be 
followed-up as an outpatient with Dr. ___. She was given 
vitamin supplementation as well as gabapentin. Her symptoms had 
reportedly partially improved on the day following admission. 
She was discharged on thiamine, pyridoxine, multivitamin, and 
gabapentin. 

Labs to be followed-up include: ___, Copper, VitB1, 
VitB6, VitE, PARANEOPLASTIC AUTOANTIBODY EVALUATION, HEAVY METAL 
SCREEN, METHYLMALONIC ACID, ANGIOTENSIN 1 CONVERTING ___, LYME 
SEROLOGY, CSF CULTURE.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Gabapentin 300 mg PO TID 
2.  Multivitamins 1 TAB PO DAILY  
3.  Pyridoxine 50 mg PO DAILY 
4.  Thiamine 100 mg PO DAILY 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Peripheral Neuropathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
   You were hospitalized at ___ for sensory change in your 
hands and feet and right leg buckling.  You were admitted and 
evaluated by the neurology service.  Based on your examination 
and history, you most likely have a sensory neuropathy, a 
disorder of your nerve fibers, that are causing your sensory 
symptoms.  
    There are many possible causes of this and your doctors sent 
___ extensive lab evaluation.  Many of the results were still 
pending at the time of your discharge.  It is critical that you 
follow-up with Neurology (your Doctor, ___ to follow-up 
the results and ensure further steps are taken.
    Your doctors recommend ___ limit your alcohol intake, as 
alcohol is a very common cause of neuropathy.
    Fortunately, you were otherwise well and able to complete 
this evaluation on an outpatient basis.

Best,
Your ___ Care Team
 
Followup Instructions:
___